US05198571
1-[(4-methyl-phenyl)-sulfonyloxy]-3,4-dihydroxy benzene
1.37 g of 1,2,4-trihydroxy benzene and 40 ml of anhydrous dimethylformamide were mixed together under an inert gas atmosphere and then 0.984 g of sodium hydride in suspension at 53% in oil were added slowly at 15°-20° C. The mixture was stirred for one hour and then 1.906 ml of triethyl borate were added, followed by stirring for one hour. Then, a solution of 2.072 g of tosyl chloride in 15 ml of dimethylformamide were added over 2 hours and the mixture was stirred for 4 hours at ambient temperature. The mixture was poured into a water-ice-hydrochloric acid mixture and extraction took place with ethyl acetate followed by evaporating to dryness. The crude residue was washed with petroleum ether and after chromatography on silica and eluting with a cyclohexane-ethyl acetate (1-1) mixture, 1.53 g of the expected product were obtained which was crystallized from a flugene-isopropyl ether mixture.

reactant | 1,2,4-trihydroxy benzene | 1.37 g | OC1=C(C=C(C=C1)O)O | C6H6O3
reactant | sodium hydride | 0.984 g | [H-].[Na+]
reactant | triethyl borate | 1.906 ml | B(OCC)(OCC)OCC | C6H15BO3
reactant | tosyl chloride | 2.072 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(4-methyl-phenyl)-sulfonyloxy]-3,4-dihydroxy benzene | 1.53 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC(=C(C=C1)O)O | C13H12O5S
